US03951982
From 12.9 g. of 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile and 19.5 g. of N-phenylpiperazine in 180 ml. of dimethyl sulfoxide, there is obtained 6-[p-(4-phenyl-1-piperazinyl)phenyl]-1,2-dihydro-2-oxonicotinonitrile.

reactant | 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile | FC1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C12H7FN2O
reactant | N-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 6-[p-(4-phenyl-1-piperazinyl)phenyl]-1,2-dihydro-2-oxonicotinonitrile | C1(=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C22H20N4O
